*
*       _/_/_/_/_/_/                          
*     _/       _/                             
*      _/_/   _/          STMicroelectronics  
*         _/ _/                               
*   _/_/_/  _/                                
*   www.st.com                                
*                                             
* 
*****************************************************
*     Model Generated by STMicroelectronics         *
*             All Rights Reserved       	          *
*      Commercial Use or Resale Restricted          *
*****************************************************
* CREATION DATES: 10-12-2008                        *
*                                                   *
* POWER MOSFET Model (level 3)                      *
*                                                   *
* EXTERNAL PINS DESCRIPTION:                        *
*                                                   *
* PIN 1 -> Drain                                    *
* PIN 2 -> Gate                                     *
* PIN 3 -> Source                                   *
*                                                   *
*                    ****C****                      *
*            **********************                 *
*     ***************************************       *
*  PARAMETER MODELS EXTRACTED FROM MEASURED DATA    *
*              <<<<<<<<<<<>>>>>>>>>>>               *
*     ***************************************       *
*   THIS MODEL CAN BE USED AT TEMPERATURE: 25 °C    *
*                                                   *
*****************************************************

* MODELLING FOR STW3N150
 
.SUBCKT STW3N150 1 2 3
LG 2 4  4.5E-09
LS 12 3 4.5E-09
LD 6 1  2.5E-09
RG 4 5  4.008
RS 9 12 0.139E-02
RD 7 6  5.795
RJ 8 7  0.361E-01
CGS 5 9   0.699E-09
CGD 7 10  0.116E-08
CK  11 7  0.699E-11
DGD 11 7 DGD
DBS 12 6 DBS
DBD  9 7 DBD
MOS  13 5 9 9 MOS L=1u W=1u
E1  10 5 101 0 1
E2  11 5 102 0 1
E3  8 13 POLY(2) 6 8 6 12 0 0 0 0  0.294E-02
G1  0 100 7 5 1u
D1  100 101  DID
D2  102 100  DID
R1  101 0  1MEG
R2  102 0  1MEG
 
.MODEL MOS NMOS
+ LEVEL = 3
+ VTO   = 4.739
+ PHI   = 1.091
+ IS    = 0.1E-12
+ JS    = 0
+ THETA = 0.104E-03
+ KP    = 2.697
+ ETA   = 0.998E-04
 
.MODEL DGD D
+ IS    = 0.1E-12
+ CJO   = 0.216E-10
+ VJ    = 0.819
+ M     = 0.339
.MODEL DBD D
+ IS    = 0.1E-12
+ CJO   = 0.582E-09
+ VJ    = 0.785
+ M     = 0.364
.MODEL DBS D
+ IS    = 0.1E-12
+ BV    = 1530
+ N     = 1
+ TT    = 0.534E-06
+ RS    = 0.736E-02
.MODEL DID D
+ IS    = 0.01E-12
+ RS    = 0
+ BV    = 1540
 
.ENDS STW3N150
 
* END OF MODELLING

