*  File     : Diac_ST.LIB 
*  Revision : 6            
*  Date     : 09/sept/08       
*
**********************************************************************
* Please Read Carefully:
*Information in this document is provided solely in connection with ST products. STMicroelectronics NV and its subsidiaries (“ST”) reserve the
*right to make changes, corrections, modifications or improvements, to this document, and the products and services described herein at any
*time, without notice.
*All ST products are sold pursuant to ST’s terms and conditions of sale.
*Purchasers are solely responsible for the choice, selection and use of the ST products and services described herein, and ST assumes no
*liability whatsoever relating to the choice, selection or use of the ST products and services described herein.
*No license, express or implied, by estoppel or otherwise, to any intellectual property rights is granted under this document. If any part of this
*document refers to any third party products or services it shall not be deemed a license grant by ST for the use of such third party products
*or services, or any intellectual property contained therein or considered as a warranty covering the use in any manner whatsoever of such
*third party products or services or any intellectual property contained therein.
*UNLESS OTHERWISE SET FORTH IN ST’S TERMS AND CONDITIONS OF SALE ST DISCLAIMS ANY EXPRESS OR IMPLIED
*WARRANTY WITH RESPECT TO THE USE AND/OR SALE OF ST PRODUCTS INCLUDING WITHOUT LIMITATION IMPLIED
*WARRANTIES OF MERCHANTABILITY, FITNESS FOR A PARTICULAR PURPOSE (AND THEIR EQUIVALENTS UNDER THE LAWS
*OF ANY JURISDICTION), OR INFRINGEMENT OF ANY PATENT, COPYRIGHT OR OTHER INTELLECTUAL PROPERTY RIGHT.
*UNLESS EXPRESSLY APPROVED IN WRITING BY AN AUTHORIZED ST REPRESENTATIVE, ST PRODUCTS ARE NOT
*RECOMMENDED, AUTHORIZED OR WARRANTED FOR USE IN MILITARY, AIR CRAFT, SPACE, LIFE SAVING, OR LIFE SUSTAINING
*APPLICATIONS, NOR IN PRODUCTS OR SYSTEMS WHERE FAILURE OR MALFUNCTION MAY RESULT IN PERSONAL INJURY,
*DEATH, OR SEVERE PROPERTY OR ENVIRONMENTAL DAMAGE. ST PRODUCTS WHICH ARE NOT SPECIFIED AS "AUTOMOTIVE
*GRADE" MAY ONLY BE USED IN AUTOMOTIVE APPLICATIONS AT USER’S OWN RISK.
*Resale of ST products with provisions different from the statements and/or technical features set forth in this document shall immediately void
*any warranty granted by ST for the ST product or service described herein and shall not create or extend in any manner whatsoever, any
*liability of ST.
*ST and the ST logo are trademarks or registered trademarks of ST in various countries.
*Information in this document supersedes and replaces all information previously supplied.
*The ST logo is a registered trademark of STMicroelectronics. All other names are the property of their respective owners.
*© 2008 STMicroelectronics - All rights reserved
*STMicroelectronics group of companies
*Australia - Belgium - Brazil - Canada - China - Czech Republic - Finland - France - Germany - Hong Kong - India - Israel - Italy - Japan -
*Malaysia - Malta - Morocco - Singapore - Spain - Sweden - Switzerland - United Kingdom - United States of America
*www.st.com                              
**********************************************************************
*
*
***********************************************************************
* 				DIAC PSpice Models                    *
***********************************************************************
.SUBCKT DIAC DIAC_IN DIAC_OUT PARAMS:
+Tr=0.342
+Vbo=13.6V
+Delta_V=19V
+Ibo=15uA
*
*Tr:      Rise time (in µs)
*Vbo:	  Break over voltage	
*Delta_V: Dynamic breakover voltage
*Ibo:     Breakover current          
C_C1         N02098 DIAC_OUT 1u IC=0   
V_IDIAC1     DIAC_IN N01041 DC 0Vdc AC 0Vac 
R_R1         N02098 TRG  {1.462*{Tr}}  
D_D1         N06161 N01041 DZ19V 
E_ABM1       TRG DIAC_OUT VALUE {IF(ABS(I(V_IDIAC1))>{Ibo},1,0)}    
D_D2         N06161 N01060 DZ19V 
D_D3         N10655 N01060 DZ14V 
D_D4         N10655 DIAC_OUT DZ14V 
S_S1         N01041 N01060 N02098 DIAC_OUT _S1
RS_S1        N02098 DIAC_OUT 1G
C_C2         DIAC_IN DIAC_OUT 10p
****************
* Switch Model *
****************
.MODEL        _S1 VSWITCH Roff=1e7 Ron=2.2 Voff=0.1V Von=0.99V
****************
* Diodes Model *
****************
.model DZ14V  	D(Is=3.142f Rs=0.1 Ikf=0 N=1 Xti=3 Eg=1.11 M=.3282
+		Vj=.75 Fc=.5 Isr=1.973n Nr=2 Bv={Vbo} Ibv=.14467 Nbv=1.093
+		Ibvl=.1m Nbvl=1.2722 Tbv1=001433.3u)
*
.model DZ19V D(Is=6.994f Rs=5.612 Ikf=0 N=1 Eg=1.11 M=.2906
+	     Vj=.75 Fc=.5 Isr=2.088n Nr=2 Bv={Delta_V} Ibv=.17098 Nbv=1.2072
+	     Ibvl=2.002m Nbvl=1.1457 Tbv1=888.89u)
*	Vz = 18 @ 14mA, Zz = 37 @ 1mA, Zz = 11 @ 5mA, Zz = 7.9 @ 20mA
.ends   
*
*********************************************************************
* 				Standard DIACs			    *
*********************************************************************
*
*$
.subckt DB3TG DIAC_IN DIAC_OUT
X1 DIAC_IN DIAC_OUT DIAC params:
+Tr=0.342
+Vbo=13.6V
+Delta_V=19V
+Ibo=6uA
* 2008 / ST / Rev 1
.ends
*$
.subckt DB3 DIAC_IN DIAC_OUT
X1 DIAC_IN DIAC_OUT DIAC params:
+Tr=0.342
+Vbo=13.6V
+Delta_V=19V
+Ibo=10uA
* 2008 / ST / Rev 0
.ends
*$
.subckt DB4 DIAC_IN DIAC_OUT
X1 DIAC_IN DIAC_OUT DIAC params:
+Tr=0.342
+Vbo=21.6V
+Delta_V=19V
+Ibo=10uA
* 2008 / ST / Rev 1
.ends
*$
.subckt SMDB3 DIAC_IN DIAC_OUT
X1 DIAC_IN DIAC_OUT DIAC params:
+Tr=0.102
+Vbo=13.6V
+Delta_V=19V
+Ibo=4uA
* 2008 / ST / Rev 0
.ends
*$
